US06121308
1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole
0.52 g (0.93 mmol) of 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole and 0.4 g (0.01 mol) of sodium hydroxide are stirred in 5 ml water and 10 ml ethanol for three hours at ambient temperature. Then the mixture is diluted with water and adjusted to pH 4 with glacial acetic acid. The crystalline precipitate is suction filtered and dried.

reactant | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(ethoxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | 0.93 mmol, 0.52 g | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)OCC)S(=O)(=O)C2=CC=CC=C2)CCC2=CC=C(C=C2)C(N)=N | C27H29N5O4S
reactant | sodium hydroxide | 0.01 mol, 0.4 g | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 1-methyl-2-[2-(4-amidinophenyl)-ethyl]-5-[N-(hydroxycarbonylmethyl)-benzenesulphonylamino]-benzimidazole | CN1C(=NC2=C1C=CC(=C2)N(CC(=O)O)S(=O)(=O)C2=CC=CC=C2)CCC2=CC=C(C=C2)C(N)=N | C25H25N5O4S
